US05155106
In the meantime, 3.36 g of 4-methoxysalicylic acid was dispersed in 30 ml of methylene chloride under argon atmosphere, and the dispersion was cooled to -15° C. To the dispersion were added 4.47 g of triethylamine and 4.58 g of ethyl chlorocarbonate, and the mixture was agitated for 1.5 hours. To the mixture was added the 2-aminoethyl-n-octylsulfide which had been dissolved in 10 ml of methylene chloride, and the mixture was agitated at -15° C. for 2 hours. The reaction mixture was poured into 1N aqueous hydrochloric acid, and the mixture was extracted with methylene chloride. The organic layer was washed with saturated aqueous solution of sodium bicarbonate, and dried over anhydrous sodium sulfate. The solvent was distilled off in evacuated atomosphere, and the residue was subjected to column chromatography using silica gel. There was obtained 6.37 g of 2-(2'-ethoxycarbonyloxy-4'-methoxybenzoylamino)ethyl-n-octylsulfide, which was dissolved in 100 ml of methanol. To the solution was added 23 ml of 1N aqueous solution of sodium hydroxide, and the mixture was agitated for 35 minutes. The solvent was distilled off in evacuated atomosphere, and the residue was subjected to column chromatography using silica gel. There was obtained 3.55 g of 2-(2'-hydroxy-4'-methoxybenzoylamino)ethyl-n-octylsulfide.

reactant | 4-methoxysalicylic acid | 3.36 g | COC=1C=C(C(C(=O)O)=CC1)O | C8H8O4
reactant | ethyl chlorocarbonate | 4.58 g | C(OCC)(=O)Cl | C3H5ClO2
reactant | 2-aminoethyl-n-octylsulfide | NCCSCCCCCCCC | C10H23NS
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | methylene chloride | 30 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
solvent | triethylamine | 4.47 g | C(C)N(CC)CC | C6H15N
product | 2-(2'-ethoxycarbonyloxy-4'-methoxybenzoylamino)ethyl-n-octylsulfide | 6.37 g | C(C)OC(=O)OC1=C(C(=O)NCCSCCCCCCCC)C=CC(=C1)OC | C21H33NO5S
